US09371280B2
In a manner similar to the method described in Example 14, 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid (prepared as described in US20100152190A1) was reacted with 3,6,9,12,15-pentaoxaheptadecane-1,17-diol to give 4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoic acid 2-[2-(2-{2-[2-(2-hydroxy-ethoxy)-ethoxy]-ethoxy}-ethoxy)-ethoxy]-ethyl ester, hydrochloride. MS (ES+) m/z calcd. for C43H54Cl2F2N3O10: [(M+H)+]880. found: 880.

reactant | 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)O)C=C1)OC)F | C31H29Cl2F2N3O4
reactant | 3,6,9,12,15-pentaoxaheptadecane-1,17-diol | C(COCCOCCOCCOCCOCCO)O | C12H26O7
product | 4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoic acid 2-[2-(2-{2-[2-(2-hydroxy-ethoxy)-ethoxy]-ethoxy}-ethoxy)-ethoxy]-ethyl ester, hydrochloride | Cl.OCCOCCOCCOCCOCCOCCOC(C1=CC(=C(C=C1)NC(=O)[C@@H]1N[C@H]([C@]([C@H]1C1=C(C(=CC=C1)Cl)F)(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)OC)=O | InChI=1S/C43H53Cl2F2N3O10.ClH/c1-42(2,3)26-36-43(27-48,31-10-9-29(44)25-33(31)46)37(30-6-5-7-32(45)38(30)47)39(50-36)40(52)49-34-11-8-28(24-35(34)54-4)41(53)60-23-22-59-21-20-58-19-18-57-17-16-56-15-14-55-13-12-51;/h5-11,24-25,36-37,39,50-51H,12-23,26H2,1-4H3,(H,49,52);1H/t36-,37-,39+,43-;/m0./s1
